US07579368B2
To a solution of 4-ethoxy isopthalic acid 3-ethyl ester (600 mg, 2.5 mmol) in 10 mL of acetonitrile was added piperidine (429 mg, 5.0 mmol). The resulting mixture was cooled to 0° C. To this solution was added HBTU (1.4 g, 3.78 mmol, in 5 mL of acetonitrile) followed by N,N-diisopropylethylamine (2.2 mL, 12.6 mmol). The reaction was allowed to stir overnight at room temperature. The reaction mixture was concentrated in vacuo. The residue was diluted with 10% potassium carbonate and extracted with methylene chloride. The organic extract was concentrated and purification of the crude residue by flash column chromatography (silica gel, eluting with a gradient of ethyl acetate in hexanes) gave 632 mg (2.07 mmol, 82%) of pure 2-ethoxy-5-(piperidine-1-carbonyl)-benzoic acid ethyl ester. LC-MS: 306.3 [(M+H)+].

reactant | 4-ethoxy isopthalic acid 3-ethyl ester | 2.5 mmol, 600 mg | C(C)OC(C=1C=C(C(=O)O)C=CC1OCC)=O | C12H14O5
reactant | piperidine | 5.0 mmol, 429 mg | N1CCCCC1 | C5H11N
reactant | HBTU | 3.78 mmol, 5 mL, 1.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 12.6 mmol, 2.2 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-ethoxy-5-(piperidine-1-carbonyl)-benzoic acid ethyl ester | 2.07 mmol, 632 mg, 82% | C(C)OC(C1=C(C=CC(=C1)C(=O)N1CCCCC1)OCC)=O | C17H23NO4
